US05344890
N-n-butyl-N'-octylurea tetrafluoroborate (Curing Catalyst C)
A four necked flask equipped with a thermometer, stirrer and drip funnel was charged with 2.58 g of octylamine and 200 g of ethyl acetate. To this was added dropwise a solution of 1.98 g of n-butylisocyanate in 30 g of ethyl acetate with stirring over 30 minutes while maintaining the inner temperature at 10° C. and allowed to react until the absorption of isocyanato group (2240 cm-1) disappeared IR spectrometrically. After dissolving the solidified reaction product in 50 g of methanol, a mixture of 2.086 g of 35% hydrochloric acid and 50 g of methanol was added dropwise to the solution over 30 minutes and allowed to react at room temperature for 20 hours. Then a solution of 2.2 g of sodium tetrafluoroborate in 50 g of methanol was added dropwise over 30 minutes and allowed to react at room temperature for 20 hours. The reaction mixture was then filtered to remove NaCl by-product and evaporated to remove the solvent. 6.1 g of the title compound was obtained as a pale yellow liquid.

reactant | octylamine | 2.58 g | C(CCCCCCC)N | C8H19N
reactant | n-butylisocyanate | 1.98 g | C(CCC)N=C=O | C5H9NO
reactant | hydrochloric acid | 2.086 g | Cl | ClH
reactant | sodium tetrafluoroborate | 2.2 g | F[B-](F)(F)F.[Na+]
solvent | ethyl acetate | 30 g | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 g | CO | CH4O
solvent | methanol | 50 g | CO | CH4O
solvent | methanol | 50 g | CO | CH4O
solvent | ethyl acetate | 200 g | C(C)(=O)OCC | C4H8O2
product | N-n-butyl-N'-octylurea tetrafluoroborate | 6.1 g | F[B-](F)(F)F.C(CCC)NC(=O)NCCCCCCCC | InChI=1S/C13H28N2O.BF4/c1-3-5-7-8-9-10-12-15-13(16)14-11-6-4-2;2-1(3,4)5/h3-12H2,1-2H3,(H2,14,15,16);/q;-1
